US08193228B2
To 2,2-difluoro-1-(2-fluoro-4-methoxyphenyl)ethanone (45.0 g, 0.22 mol) in 400 mL of CH2Cl2 at −78° C. was added BBr3 (165.67 g, 0.66 mol) in 100 mL of CH2Cl2 dropwise. The resulting solution was stirred overnight at 25° C., and was quenched by dropwise addition of CH3OH (900 mL) at −30° C. and after stirring for 2 hours at −30° C. and for 1 hour at 25° C., the solvents were evaporated and the residue was purified by column chromatography (PE/EA 6:1) to afford 2,2-difluoro-1-(2-fluoro-4-hydroxyphenyl)ethanone as a solid.

reactant | 2,2-difluoro-1-(2-fluoro-4-methoxyphenyl)ethanone | 0.22 mol, 45.0 g | FC(C(=O)C1=C(C=C(C=C1)OC)F)F | C9H7F3O2
reactant | BBr3 | 0.66 mol, 165.67 g | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 400 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | 2,2-difluoro-1-(2-fluoro-4-hydroxyphenyl)ethanone | FC(C(=O)C1=C(C=C(C=C1)O)F)F | C8H5F3O2
